US04465833
A slurry of 3.00 g (9.02 mmoles) of 6-bromophenyl)benzimidazoquinazoline, 100 mg of diacetatobis(triphenylphosphine)palladium[II] in 150 ml of 2:1 triethylamine-toluene was heated to 100° C. under argon and then treated with dropwise addition of 1.57 g (16.0 mmoles) of ethynyltrimethylsilane. After 3.5 hours, the mixture was cooled and filtered. The filtrate was diluted with 100 ml of ether, washed with 200 ml each of 5% hydrochloric acid and water, and then dried over magnesium sulfate. Concentrating the clear solution yielded a solid mass which upon trituration with hexane gave 2.21 g (56.5 mmoles, 70.5%) of 6-(m-trimethylsilylethynylphenyl)benzimidazoquinazoline: ir (KBr): 3077 (medium, sharp, C-H), 2960 (medium, sharp, SiCH), 2155 (strong, sharp, C≡C), 1621, 1587 (v. strong, sharp, C=N), 1524, 1456, 1441, 1355, 1325 (strong, sharp, C=C), 1247 (v. strong, sharp, Si--C) and 844 cm-1 (v. strong, broad, Si--C bending); mass spectrum (70 ev) m/e 391.

reactant | benzimidazoquinazoline | N1C=NC2=C1C=CC1=C2C=CC=2C=NC=NC12 | C13H8N4
reactant | ethynyltrimethylsilane | 16.0 mmoles, 1.57 g | C(#C)[Si](C)(C)C | C5H10Si
solvent | triethylamine toluene | 150 ml | C(C)N(CC)CC.C1(=CC=CC=C1)C
product | 6-(m-trimethylsilylethynylphenyl)benzimidazoquinazoline | 56.5 mmoles, 2.21 g, 70.5% | C[Si](C)(C)C#CC=1C=C(C=CC1)C1=NC=NC=2C3=C(C=CC12)C1=C(NC=N1)C=C3 | C24H20N4Si
